2192-03-27 09:12:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, HOTN
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    87 yo man with h/o COPD, Lung CA, and CHF.  Feeling not well for few
   days and went to OSH, found to have sat of 70%, was intubated and
   became hypotensive.  Started on dopa, developed MAT, started on
   diltiazem and then neo. Transfered hear.  Were CVL placed.  dopa weaned
   off.  neo continued through CVL. CXR with left sided consolidation.
   Got CTX and azithro, hear got Vanco, levo, zosyn.
   24 Hour Events:
 ARTERIAL LINE - START [**2192-3-27**] 04:32 AM
 MULTI LUMEN - START [**2192-3-27**] 06:13 AM
   Allergies:
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2192-3-27**] 07:06 AM
   Levofloxacin - [**2192-3-27**] 07:14 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Phenylephrine - 2 mcg/Kg/min
   Other ICU medications:
   Other medications:
   hydrocort
   vanco
   levoflox
   hep s/q
   fentanyl
   versed
   Changes to medical and family history:
   on chronic steroids for COPD
   former heavy ETOH.
   Lives with wife in [**Name2 (NI) **].
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-3-27**] 09:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 69 (64 - 71) bpm
   BP: 98/43(61) {98/43(61) - 116/50(72)} mmHg
   RR: 21 (13 - 23) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   CVP: 1 (1 - 7)mmHg
   Total In:
                                                                  5,389 mL
   PO:
   TF:
   IVF:
                                                                  5,389 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,010 mL
   Urine:
                                                                  1,010 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  4,379 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 15
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 23 cmH2O
   Plateau: 13 cmH2O
   SpO2: 100%
   ABG: 7.30/53/117/27/0
   Ve: 8.4 L/min
   PaO2 / FiO2: 117
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   245 K/uL
   78 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.5 mEq/L
   19 mg/dL
   110 mEq/L
   142 mEq/L
   35.7 %
   26.3 K/uL
        [image002.jpg]
                             [**2192-3-27**]  06:08 AM
                             [**2192-3-27**]  06:41 AM
   WBC
   26.3
   Hct
   35.7
   Plt
   245
   Cr
   0.9
   TCO2
   27
   Glucose
   78
   Other labs: PT / PTT / INR:13.7/31.5/1.2, Differential-Neuts:91.2 %,
   Lymph:6.2 %, Mono:2.1 %, Eos:0.3 %, Lactic Acid:1.0 mmol/L, Ca++:6.5
   mg/dL, Mg++:1.5 mg/dL, PO4:2.1 mg/dL
   Imaging: CXR:  LLL infiltrate
   Assessment and Plan
   Septic shock:  HOTN, low CVP with evidence of PNA.  Needs more
   aggressive fluid repletion.  Will give 500cc/hr until CVP goes to
   [**9-24**].
   Will continue vanco/zosyn pending cultures.
   Respiratory failure:  LLL PNA on background likely severe COPD given
   CXR hyperlucency and hyperexpansion, and lung CA.    Should limit VT.
   AFib:  now better controlled on neo
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2192-3-27**] 04:32 AM
   20 Gauge - [**2192-3-27**] 05:08 AM
   Multi Lumen - [**2192-3-27**] 06:13 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: Other)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2192-03-28 09:34:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   87  yo man with lung CA, COPD, presents with hypoxemic respiratory
   failure and sepsis.  Found out yesterday that he was DNR/DNI and would
   not want intubation.  Family considering withdrawl of care today after
   family from out of town can come in and see him.
   24 Hour Events:
 PAN CULTURE - At [**2192-3-27**] 09:45 AM
 EKG - At [**2192-3-27**] 09:46 AM
   Allergies:
   Last dose of Antibiotics:
   Levofloxacin - [**2192-3-27**] 07:14 AM
   Piperacillin/Tazobactam (Zosyn) - [**2192-3-28**] 06:00 AM
   Vancomycin - [**2192-3-28**] 08:38 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 25 mcg/hour
   Phenylephrine - 2.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   hep s/q
   chlorhex
   protonix
   hydrocort
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-3-28**] 09:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.2
   HR: 50 (48 - 74) bpm
   BP: 133/58(82) {86/43(59) - 135/106(111)} mmHg
   RR: 24 (20 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 67 Inch
   CVP: 1 (0 - 8)mmHg
   Total In:
                                                                  7,856 mL
                                                                    688 mL
   PO:
   TF:
   IVF:
                                                                  7,856 mL
                                                                    688 mL
   Blood products:
   Total out:
                                                                  2,720 mL
                                                                    505 mL
   Urine:
                                                                  2,520 mL
                                                                    505 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  5,136 mL
                                                                    183 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 80%
   RSBI Deferred: FiO2 > 60%
   PIP: 23 cmH2O
   Plateau: 13 cmH2O
   SpO2: 98%
   ABG: 7.29/48/82.[**Numeric Identifier **]/25/-3
   Ve: 10.6 L/min
   PaO2 / FiO2: 104
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   12.3 g/dL
   251 K/uL
   125 mg/dL
   1.3 mg/dL
   25 mEq/L
   5.1 mEq/L
   24 mg/dL
   105 mEq/L
   139 mEq/L
   39.2 %
   26.3 K/uL
        [image002.jpg]
                             [**2192-3-27**]  06:08 AM
                             [**2192-3-27**]  06:41 AM
                             [**2192-3-27**]  12:24 PM
                             [**2192-3-27**]  03:18 PM
                             [**2192-3-28**]  03:05 AM
   WBC
   26.3
   26.3
   Hct
   35.7
   39.2
   Plt
   245
   251
   Cr
   0.9
   1.1
   1.3
   TCO2
   27
   24
   Glucose
   78
   73
   88
   125
   Other labs: PT / PTT / INR:15.4/38.0/1.4, Differential-Neuts:96.8 %,
   Lymph:1.6 %, Mono:1.3 %, Eos:0.2 %, Lactic Acid:1.0 mmol/L, Albumin:2.3
   g/dL, Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**]):  Severe COPD with LLL PNA,
   vanco/levo/zosyn for PNA
   Septic shock:  On neosynephrine
   Requesting increased sedation to keep him more uncomfortable
   Lung Ca.
   Family will withdraw care later today once they are all here to see him
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2192-3-27**] 04:32 AM
   20 Gauge - [**2192-3-27**] 05:08 AM
   Multi Lumen - [**2192-3-27**] 06:13 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill